US04638068
Preparation of methyl 5-fluoropicolinate
The methyl 5-aminopicolinate (2.2 g) is dissolved in 5.5 ml 48% fluoroboric acid and 20 ml 95% ethanol. This mixture is cooled, with stirring, to -3° C. and then 1.81 g n-butyl nitrite added dropwise. After a further one-half hour at -3° C., 0.5 ml n-butyl nitrite is added slowly and stirring continued for one-half hour at 0° C. After adding 20 ml ether carefully, the mixture is rapidly filtered, and the solid washed twice with cold hexane. The solid is suspended in 100 ml heptane, and the suspension slowly heated with stirring. At about 60° C., a vigorous exothermic reaction occurs. Heating is then continued to 80° C. A red oil separates on the sides of the flask. The heptane solution is filtered, and the filtrate concentrated to give the desired product. The red oil is dissolved in water, excess sodium bicarbonate solution added, and the solution extracted with ethyl acetate. The ethyl acetate extract is washed with saturated brine, dried and concentrated. The residue is chromatographed on silica gel and the product, methyl 5-fluoropicolinate, eluted with 1:1-ether:hexane. This material is used directly for the preparation of the picolinic acid.

reactant | methyl 5-aminopicolinate | 2.2 g | NC=1C=CC(=NC1)C(=O)OC | C7H8N2O2
reactant | n-butyl nitrite | 1.81 g | N(=O)OCCCC | C4H9NO2
reactant | n-butyl nitrite | 0.5 ml | N(=O)OCCCC | C4H9NO2
reactant | ether | 20 ml | CCOCC | C4H10O
reactant | fluoroboric acid | 5.5 ml | F[B-](F)(F)F.[H+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | methyl 5-fluoropicolinate | FC=1C=CC(=NC1)C(=O)OC | C7H6FNO2
